US04661520
Preparation of N'-cyano-N-(1,2,3,4-tetrahydro-1-naphthyl)guanidine (Method B):
A 25 ml round bottom flask containing a mixture of 4.8 g of N-cyano-O-phenylisourea and 6 g of 1,2,3,4-tetrahydro-1-naphthylamine was placed in an oil bath preheated to 190° C. The bath temperature was raised to 220° C. over 20 minutes and maintained at 220° C. for 8 minutes. Upon cooling, the reaction mixture had a glass-like appearance. The product was isolated from the reaction mixture by thorough shaking of the reaction mixture with ether to remove the remaining starting materials and phenol, and decanting the ether solution which left the crude product as a white gummy residue. The crude product was further purified by chromatography on a column packed with silica gel and eluting initially with toluene then with toluene-ethyl acetate mixtures with gradual increase in the ethyl acetate content. This gave 4.61 g of the desired compound that had satisfactory data in spectroscopic analysis.

reactant | N-cyano-O-phenylisourea | 4.8 g | C(#N)NC(OC1=CC=CC=C1)=N | C8H7N3O
reactant | 1,2,3,4-tetrahydro-1-naphthylamine | 6 g | C1(CCCC2=CC=CC=C12)N | C10H13N
solvent | ether | CCOCC | C4H10O
product | N'-cyano-N-(1,2,3,4-tetrahydro-1-naphthyl)guanidine | C(#N)NC(NC1CCCC2=CC=CC=C12)=N | C12H14N4
